US04374248
3-{3-[3-(Dimethylaminomethyl)phenoxy]propylamino}-4-amino-1,2,5-thiadiazole 1,1-dioxide
When a methanolic suspension of 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide is successively treated with an equimolar amount of 3-[3-(dimethylaminomethyl)phenoxy]propylamine [prepared according to the procedure described in Belgian Pat. No. 867,106] and excess ammonia by the general procedure described in Example 35, the title compound is thereby produced.

reactant | 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide | COC1=NS(N=C1OC)(=O)=O | C4H6N2O4S
reactant | 3-[3-(dimethylaminomethyl)phenoxy]propylamine | CN(C)CC=1C=C(OCCCN)C=CC1 | C12H20N2O
reactant | ammonia | N | H3N
product | 3-{3-[3-(Dimethylaminomethyl)phenoxy]propylamino}-4-amino-1,2,5-thiadiazole 1,1-dioxide | CN(C)CC=1C=C(OCCCNC2=NS(N=C2N)(=O)=O)C=CC1 | C14H21N5O3S
